US07544215B2
Step 2: Preparation of 2-{4-[(2-bromoethyl)(ethyl)amino]phenyl}-6-nitro-1H-benzo-[de]isoquinolin-1,3-(2H)-dione
1.5 g (3.7 mmol) of 2-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-6-nitro-1H-benzo[de]isoquinolin-1,3(2H)-dione was dissolved in 80 mL of chloroform and heated to a boil. Then, 10.7 mL (11.1 mmol) of phosphorus tribromide was added dropwise within 20 minutes, and the solution was heated at reflux for an additional 2 hours. The mixture was then poured onto ice, and the aqueous phase was extracted with chloroform. The combined organic phases were dried over magnesium sulfate. The purification was performed by column chromatography on silica gel with toluene as the developing solvent. Yield: 0.90 g (52% of the theoretical), dark-red powder. 1H-NMR (d6DMSO/300 MHz): δ=1.12 (t, J=8.1 Hz, 3H), 1.86 (q, 2H), 3.58 (t, J=6.9 Hz, 2H), 4.01 (t, J=6.9 Hz, 2H), 6.96 (d, J=4.2 Hz, 2H, phenyl), 7.83 (d, J=7.6 Hz, 1H, naphthalene), 7.95 (d, J=4.4 Hz, 2H, phenyl), 8.33 (d, J=8.1 Hz, 1H, naphthalene), 8.52 (d, J=8.8 Hz, 1H, naphthalene), 8.67 (d, J=8.0 Hz, 1H, naphthalene), 9.13 (d, J=8.6 Hz, 1H, naphthalene).

reactant | 2-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-6-nitro-1H-benzo[de]isoquinolin-1,3(2H)-dione | 3.7 mmol, 1.5 g | C(C)N(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CCO | C22H19N3O5
reactant | phosphorus tribromide | 11.1 mmol, 10.7 mL | P(Br)(Br)Br | Br3P
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-{4-[(2-bromoethyl)(ethyl)amino]phenyl}-6-nitro-1H-benzo-[de]isoquinolin-1,3-(2H)-dione | BrCCN(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CC | C22H18BrN3O4
